US04999366
Analysis of crude 4,4-diethyl-2-(1phenylethenyl) isoxazolidine 3,5-dione was performed by thin layer chromatography (TLC) on Bakerflex Silica Plates using methylene chloride:-hexane (98:2) as the mobile phase. Components appeared at Rf 0.80, 0.78, 0.72, 0.60, 0.52, and 0.0. A sample of the crude isoxazolidine-3,5-dione weighing 3.50 g (38.4% purity by HPLC) was dissolved in 5.0 ml of chloroform:hexane (98:2), and applied to a 37×2 cm (O. D.) chromatography column containing 60-200 mesh silica gel as the adsorbant. The eluting solvent was chloroform:hexane (98:2) and the elution rate was 1 ml/min. Twenty 50 ml fractions were collected and analyzed by TLC as described above Fractions 11, 12, 13 and 14 showed a single component, Rf 0.60. These fractions were combined and concentrated to give 1.0 g of pure 4,4-diethyl-2-(1-phenylethenyl-isoxazolidine-3,5-dione as a viscous oil: IR(neat) 2976(w), 2938(w), 2882(w), 1816(s), 1721(s) and 1626 (s)cm-1 ; UV max (CH3OH) 245 nm (ε6800); 1H NMR (CDCl3) δ 7.72 (s, overlapping a small m, 5, aromatic CH) 5.47 (s, 1, vinyl CH), 5.34 (s, 1, vinyl CH), 1.83 (q, 4, CH2) and 0.91 (t, 6, CH3); high resolution MS, calc'd for: C15H17NO3 : 259.1208. Found: 259.1209; MS m/z (rel. intensity) 259 (44), 215 (48), 199 (85), 108 (89) and 106 (100). Elemental Analysis: Calc'd for: C15H17NO3 :C, 69.48; H, 6.61; N, 5.40.Found: C,69,64; H, 6.91; N, 5.04

reactant | 4,4-diethyl-2-(1phenylethenyl) isoxazolidine 3,5-dione | C(C)C1(C(N(OC1=O)C(=C)C1=CC=CC=C1)=O)CC | C15H17NO3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | hexane | CCCCCC | C6H14
reactant | isoxazolidine-3,5-dione | 3.50 g | O1NC(CC1=O)=O | C3H3NO3
solvent | chloroform hexane | 5.0 ml | C(Cl)(Cl)Cl.CCCCCC
product | 1-phenylethenyl-isoxazolidine-3,5-dione | C1(=CC=CC=C1)C(=C)N1OC(CC1=O)=O | C11H9NO3
